US06770665B2
3-(2-Chloro-6-fluorophenyl)-5-(4-bromo-3,5-dimethylthien-2-yl)-1-methyl-1H-1,2,4-triazole
n-Butyllithium (0.7 g, 10.8 mmol) was added dropwise to a solution of 5-(4,5-dibromo-3-methylthien-2-yl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole (5 g, 10.8 mmol) in THF (70 mL) at −70° C. and stirred for 1 hour. Iodomethane (1.6 g, 11.29 mmol) was added to the reaction mixture and allowed to warm to 25° C. After adding saturated aq ammonium chloride (10 mL), the organic layer was separated, washed with water, followed by saturated aq sodium chloride (20 mL) and dried over sodium sulfate, filtered, and concentrated. The residue was chromatographed to give the product as a yellow oil (2.0 g, 47%): 1H NMR (CDCl3) δ 2.32 (s, 3H), 2.48 (s, 3H), 3.99 (s, 3H), 7.07-7.13 (m, 1H), 7.28-7.38 (m, 2H); EI/MS 400 m/e (M+); Calcd. for C15H12ClBrFN3S: C, 44.96; H, 3.02; N, 10.49; Found: C, 44.94; H, 3.01; N, 10.29.

reactant | n-Butyllithium | 10.8 mmol, 0.7 g | C(CCC)[Li]
reactant | 5-(4,5-dibromo-3-methylthien-2-yl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 10.8 mmol, 5 g | BrC=1C(=C(SC1Br)C1=NC(=NN1C)C1=C(C=CC=C1F)Cl)C | C14H9Br2ClFN3S
reactant | Iodomethane | 11.29 mmol, 1.6 g | IC | CH3I
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 3-(2-Chloro-6-fluorophenyl)-5-(4-bromo-3,5-dimethylthien-2-yl)-1-methyl-1H-1,2,4-triazole | 2.0 g, 47% | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C=1SC(=C(C1C)Br)C)C | C15H12BrClFN3S
